US05798352
(a) 1-Benzyl-4-methyl-1,2,3,6-tetrahydropyridine-2(R,S)-carboxylic acid hydrochloride
A stirred solution of 1-benzyl-4-methyl-1,2,3,6-tetrahydropyridine-2(R,S)-carboxylic acid ethyl ester (Preparation17(a); 20.1 g, 77.5 mmol) in 5M hydrochloric acid (200 ml) was heated at 100° C. for 4.5 hours and then evaporated to dryness under reduced pressure. Residual water was removed azeotropically using dichloromethane followed by toluene to give the required product (24.0 g) as a white foam, Rf 0.40 (SS 13), which was used without further purification in the next step.

reactant | 1-benzyl-4-methyl-1,2,3,6-tetrahydropyridine-2(R,S)-carboxylic acid ethyl ester | 77.5 mmol, 20.1 g | C(C)OC(=O)C1N(CC=C(C1)C)CC1=CC=CC=C1 | C16H21NO2
reactant | hydrochloric acid | 5M, 200 ml | Cl | ClH
product | 1-Benzyl-4-methyl-1,2,3,6-tetrahydropyridine-2(R,S)-carboxylic acid hydrochloride | 24.0 g | Cl.C(C1=CC=CC=C1)N1C(CC(=CC1)C)C(=O)O | InChI=1S/C14H17NO2.ClH/c1-11-7-8-15(13(9-11)14(16)17)10-12-5-3-2-4-6-12;/h2-7,13H,8-10H2,1H3,(H,16,17);1H
